US07439260B2
Step 2: 7-({5-[(1R)-1,3-dihydroxy-1-(trifluoromethyl)propyl]-1,3-thiazol-2-yl}thio)-4-(4-fluorophenyl)-2H-chromen-2-one
To methyl(3R)-4,4,4-trifluoro-3-(2-{[4-(4-fluorophenyl)-2-oxo-2H-chromen-7-yl]thio}-1,3-thiazol-5-yl)-3-hydroxybutanoate (0.120 g) in THF at −90° C. was added an ethereal solution of LAH 1.0M (0.29 mL) dropwise. After 25 minutes, the solution was quenched with NH4Cl and brought to rt. After extraction with EtOAc, the solution was dried over MgSO4 and the solvent removed under vacuum. This crude mixture was then treated with NaBH4 in methanol at 0° C. for 15 minute. The mixture was quenched with NH4Cl and extracted with EtOAc. After flash chromatography on silica gel (hexane/EtOAc; 55:45) the title compound was isolated. 1H NMR (400 MHz, acetone-d6): δ 7.90 (s, 1H), 7.68 (m, 2H), 7.62 (s, 1H), 7.56 (dd, 1H), 7.47 (dd, 1H), 7.38 (t, 2H), 6.67 (s, 1H), 6.41 (s, 1H), 4.68 (t, 1H), 3.85 (m, 2H), 2.45 (m, 1H), 2.37 (m, 1H).

reactant | methyl(3R)-4,4,4-trifluoro-3-(2-{[4-(4-fluorophenyl)-2-oxo-2H-chromen-7-yl]thio}-1,3-thiazol-5-yl)-3-hydroxybutanoate | 0.120 g | FC([C@@](CC(=O)OC)(O)C1=CN=C(S1)SC1=CC=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)F)(F)F | C23H15F4NO5S2
reactant | LAH | 1.0M, 0.29 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
product | 7-({5-[(1R)-1,3-dihydroxy-1-(trifluoromethyl)propyl]-1,3-thiazol-2-yl}thio)-4-(4-fluorophenyl)-2H-chromen-2-one | O[C@](CCO)(C(F)(F)F)C1=CN=C(S1)SC1=CC=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)F | C22H15F4NO4S2
